US04203909
N-Cyano-N'-(2-propyn-1-yl)-N"-{2-[(3-methyl-5-dimethylaminomethyl-2-furyl)methylthio]ethyl}guanidine
When an alcohol solution of dimethyl cyanodithioimidocarbonate is reacted with 2-[(3-methyl-5-dimethylaminomethyl-2-furyl)methylthio]ethylamine, and the resultant N-cyano-N'-{2-[(3-methyl-5-dimethylaminomethyl-2-furyl)methylthio]ethyl}-S-methylisothiourea is treated with propargylamine according to the general procedure of Example 3, the title compound is produced.

reactant | dimethyl cyanodithioimidocarbonate | C(#N)N=C(SC)SC | C4H6N2S2
reactant | 2-[(3-methyl-5-dimethylaminomethyl-2-furyl)methylthio]ethylamine | CC1=C(OC(=C1)CN(C)C)CSCCN | C11H20N2OS
reactant | N-cyano-N'-{2-[(3-methyl-5-dimethylaminomethyl-2-furyl)methylthio]ethyl}-S-methylisothiourea | C(#N)NC(SC)=NCCSCC=1OC(=CC1C)CN(C)C | C14H22N4OS2
reactant | propargylamine | C(C#C)N | C3H5N
product | N-Cyano-N'-(2-propyn-1-yl)-N"-{2-[(3-methyl-5-dimethylaminomethyl-2-furyl)methylthio]ethyl}guanidine | C(#N)NC(=NCCSCC=1OC(=CC1C)CN(C)C)NCC#C | C16H23N5OS
